US06946461B2
e) 3-(5-Methylisoxazol-3-yl)-6-[(1-methyl-1,2,3-triazol-4-yl)methyloxy]imidazo[2,1-a]phthalazine
3-(5-Methylisoxazol-3-yl)imidazo[2,1-a]phthalazin-6-one (100 mg, 0.375 mmol) was suspended in DMF (5 ml) and sodium hydride (60% dispersion in oil, 33 mg, 0.83 mmol) was added. After stirring at room temperature for 10 minutes potassium carbonate (50 mg, 0.36 mmol) was added, followed by 4-chloromethyl-1-methyl triazole hydrochloride (69 mg, 0.41 mmol). The solution was heated at 80° C. for 4 hours, then cooled and poured into water. The solid product was filtered off and washed with water and hexane. The solid was recrystallised from ethyl acetate/hexane to yield the title compound (83 mg, 62%), 1H NMR (360 MHz, CDCl3) 2.55 (3H, s), 4.11 (3H, s), 5.75 (2H, s), 6.72 (1H, s), 7.67 (1H, t), 7.86 (1H, t), 7.99 (1H, s), 8.17 (2H, d), 8.51 (1H, d); MS+362 [MH]+.

reactant | 3-(5-Methylisoxazol-3-yl)imidazo[2,1-a]phthalazin-6-one | 0.375 mmol, 100 mg | CC1=CC(=NO1)C1=CN=C2N1NC(C1=CC=CC=C21)=O | C14H10N4O2
reactant | sodium hydride | 0.83 mmol, 33 mg | [H-].[Na+]
reactant | potassium carbonate | 0.36 mmol, 50 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloromethyl-1-methyl triazole hydrochloride | 0.41 mmol, 69 mg | Cl.ClCC=1N=NN(C1)C
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(5-Methylisoxazol-3-yl)-6-[(1-methyl-1,2,3-triazol-4-yl)methyloxy]imidazo[2,1-a]phthalazine | 83 mg, 62% | CC1=CC(=NO1)C1=CN=C2N1N=C(C1=CC=CC=C21)OCC=2N=NN(C2)C | C18H15N7O2
